US06812246B2
To a solution of 7-(acetoxymethyl)-5-amino-2-[4-amino-3-fluorophenyl]-6,8-difluoro-4H-1-benzopyran-4-one (1.51 g, 4.00 mmol) in dimethylformamide (40 mL) were added 3-bromopropionic acid (3.06 g, 20.0 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (3.83 g, 20.0 mmol), and the mixture was stirred at room temperature for 45 minutes. Water was added thereto and the mixture was extracted with ethyl acetate. Purification by silica gel column chromatography (6:1 chloroform/acetate) gave 7-(acetoxymethyl)-5-amino-2-[4-[(3-bromopropionyl)amino]-3-fluorophenyl]-6,8-difluoro-4H-1-benzopyran-4-one (554 mg, 27%).

reactant | 7-(acetoxymethyl)-5-amino-2-[4-amino-3-fluorophenyl]-6,8-difluoro-4H-1-benzopyran-4-one | 4.00 mmol, 1.51 g | C(C)(=O)OCC1=C(C2=C(C(C=C(O2)C2=CC(=C(C=C2)N)F)=O)C(=C1F)N)F | C18H13F3N2O4
reactant | 3-bromopropionic acid | 20.0 mmol, 3.06 g | BrCCC(=O)O | C3H5BrO2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 20.0 mmol, 3.83 g | Cl.CN(CCCN=C=NCC)C
reactant | Water | O | H2O
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 7-(acetoxymethyl)-5-amino-2-[4-[(3-bromopropionyl)amino]-3-fluorophenyl]-6,8-difluoro-4H-1-benzopyran-4-one | 554 mg, 27% | C(C)(=O)OCC1=C(C2=C(C(C=C(O2)C2=CC(=C(C=C2)NC(CCBr)=O)F)=O)C(=C1F)N)F | C21H16BrF3N2O5
